US05066680
A solution of 4-acetylaminomethyl-1-ethyl-1,2,3,6-tetrahydropyridine (20.0 g) and 6N aqueous solution of sodium hydroxide (73 ml) in methanol (150 ml) was refluxed for 40 hours. The solution was acidified with concentrated hydrochloric acid under ice cooling and evaporated in vacuo. To the residue was added ethanol (400 ml) and the mixture was refluxed for an hour. The resulting precipitates were filtered off and the filtrate was evaporated in vacuo. The residue was treated with Amberlite IRA-910 (trademark: Rohm & Haas Co.) and purified by vacuum distillation to give 4-aminomethyl-1-ethyl-1,2,3,6-tetrahydropyridine (14.25 g).

reactant | 4-acetylaminomethyl-1-ethyl-1,2,3,6-tetrahydropyridine | 20.0 g | C(C)(=O)NCC=1CCN(CC1)CC | C10H18N2O
reactant | sodium hydroxide | 73 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 4-aminomethyl-1-ethyl-1,2,3,6-tetrahydropyridine | 14.25 g | NCC=1CCN(CC1)CC | C8H16N2
